US08349886B2
2-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-N-methoxy-N-methyl-3-(tetrahydro-2H-pyran-4-yl)propanamide
A mixture of ethyl 2-(4-bromo-1H-indazol-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate (3.10 g), copper(I) iodide (0.46 g), N,N′-dimethylethylenediamine (0.26 mL), potassium carbonate (3.37 g), sodium cyclopropanesulfinate (3.1 g) and dimethyl sulfoxide (30 mL) was stirred overnight at 100° C. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. To a mixture of the obtained residue, tetrahydrofuran (10 mL) and methanol (10 ml) was added 2M aqueous sodium hydroxide solution (8.0 mL), and the mixture was stirred at 50° C. for 4 hr. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. To a mixture of the obtained residue, N,O-dimethylhydroxylamine hydrochloride (1.60 g), triethylamine (2.3 mL), 1H-1,2,3-benzotriazol-1-ol (1.84 g) and N,N-dimethylformamide (25 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.88 g), and the mixture was stirred overnight at room temperature. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated brine, saturated aqueous sodium hydrogen carbonate and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (2.30 g, yield 67%) as a yellow oil from the fraction eluted with ethyl acetate. MS: 422 (MH+).

reactant | ethyl 2-(4-bromo-1H-indazol-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate | 3.10 g | BrC1=C2C=NN(C2=CC=C1)C(C(=O)OCC)CC1CCOCC1 | C17H21BrN2O3
reactant | N,N′-dimethylethylenediamine | 0.26 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 3.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium cyclopropanesulfinate | 3.1 g | C1(CC1)S(=O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | copper(I) iodide | 0.46 g | [Cu]I
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 2-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-N-methoxy-N-methyl-3-(tetrahydro-2H-pyran-4-yl)propanamide | 2.30 g, yield 67% | C1(CC1)S(=O)(=O)C1=C2C=NN(C2=CC=C1)C(C(=O)N(C)OC)CC1CCOCC1 | C20H27N3O5S
